US04684476
4-Trifluoromethylbenzamidine hydrochloride (5 g, 0.02 mol) and α-propyl-β-dimethylaminoacrolein (3 g, 0.02 mol) were added to a sodium methylate solution having metallic sodium (1 g) dissolved in anhydrous methanol (50 ml), followed by boiling the mixture for 4 hours with stirring, distilling off methanol, adding toluene (50 ml) to the reaction residue to extract the product, washing the resulting extract with water, drying the toluene layer with anhydrous sodium sulfate, distilling off toulene and three times recrystallizing the residue from methanol to obtain 5-propyl-2-(4-trifluoromethylphenyl)pyrimidine (3 g, 0.01 mol).

reactant | 4-Trifluoromethylbenzamidine hydrochloride | 0.02 mol, 5 g | Cl.FC(C1=CC=C(C(=N)N)C=C1)(F)F
reactant | sodium methylate | C[O-].[Na+]
reactant | sodium | 1 g | [Na] | Na
solvent | methanol | 50 ml | CO | CH4O
product | 5-propyl-2-(4-trifluoromethylphenyl)pyrimidine | 0.01 mol, 3 g | C(CC)C=1C=NC(=NC1)C1=CC=C(C=C1)C(F)(F)F | C14H13F3N2
